US08530493B2
H1. 3-Methyl-2-nitro-butyric acid ethyl ester
To an ice cooled solution of 5.31 g sodium nitrite and 8 g dried phloroglucinol in 70 ml dimethyl formamide is added a solution of 11.3 g 2-iodo-3-methyl-butyric acid ethyl ester in 30 ml dimethyl formamide. The solution is allowed to warm up to room temperature and is stirred over night. The solvent is removed at reduced pressure. The residue is dissolved in ethyl acetate and washed with water. The organic layer is dried and the solvent is removed. The title compound is obtained as an oil. MS: m/z (M+)=176.1

reactant | sodium nitrite | 5.31 g | N(=O)[O-].[Na+]
reactant | phloroglucinol | 8 g | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
reactant | 2-iodo-3-methyl-butyric acid ethyl ester | 11.3 g | C(C)OC(C(C(C)C)I)=O | C7H13IO2
solvent | dimethyl formamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-Methyl-2-nitro-butyric acid ethyl ester | C(C)OC(C(C(C)C)[N+](=O)[O-])=O | C7H13NO4
